US07612068B2
5-Bromo-2-iodo-anisole
4-Bromo-2-methoxy-aniline (20 g, 99 mmol) was dissolved in water (695 mL) and concentrated sulphuric acid (113 mL). The solution was cooled to 0° C. and sodium nitrite (7.5 g, 109 mmol) dissolved in water (32 mL) was added and stirred for 1 hour at 5-10° C. Potassium iodide (21.4 g, 129 mmol) dissolved in water (100 mL) was added slowly whilst the mixture was vigorously stirred. After addition, the mixture was allowed to warm to room temperature. Ethyl acetate was added and the phases were separated. The aqueous phase was extracted with ethyl acetetate (3×). The combined organic phases were then washed with 1M NaOH, 1M Na2S2O3, 1M HCl, 1M saturated NaHCO3 and brine. The separated organic phase was dried (MgSO4), filtered and concentrated in vacuo. The product was purified by flash chromatography using silica gel and eluting with heptane/ethyl acetate 1:1. The product was identified from relevant fractions which were combined and concentrated in vacuo.

reactant | 4-Bromo-2-methoxy-aniline | 99 mmol, 20 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | sulphuric acid | 113 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 109 mmol, 7.5 g | N(=O)[O-].[Na+]
reactant | Potassium iodide | 129 mmol, 21.4 g | [I-].[K+]
solvent | water | 695 mL | O | H2O
solvent | water | 32 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2-iodo-anisole | BrC=1C=CC(=C(C1)OC)I | C7H6BrIO
